************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: DFFSX1
* View Name:     schematic
* Netlisted on:  Jun  4 07:41:45 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS:G
+        VDD:P
+        ExtVDD:P
+        ExtVSS:G

*.PIN VSS
*+    VDD
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    DFFSX1
* View Name:    schematic
************************************************************************

.SUBCKT DFFSX1 CK D Q QN SN VDD VSS
*.PININFO CK:I D:I SN:I VDD:I VSS:I Q:O QN:O
Mmn51 n40 qbint n42 VSS g45n1svt m=1 l=45n w=145n
Mmn52 n35 CKb n40 VSS g45n1svt m=1 l=45n w=145n
Mmn50 n42 SN VSS VSS g45n1svt m=1 l=45n w=145n
Mmn26 n20 CKb n21 VSS g45n1svt m=1 l=45n w=145n
Mmn25 n21 D VSS VSS g45n1svt m=1 l=45n w=145n
Mmn57 QN net331 VSS VSS g45n1svt m=1 l=45n w=260n
Mmn55 Q qbint VSS VSS g45n1svt m=1 l=45n w=260n
Mmn30 n25 SN VSS VSS g45n1svt m=1 l=45n w=145n
Mmn31 mout n20 n25 VSS g45n1svt m=1 l=45n w=145n
Mmn35 n20 CKbb n30 VSS g45n1svt m=1 l=45n w=145n
Mmn36 n30 mout VSS VSS g45n1svt m=1 l=45n w=145n
Mmn56 net331 qbint VSS VSS g45n1svt m=1 l=45n w=145n
Mmn20 CKb CK VSS VSS g45n1svt m=1 l=45n w=145n
Mmn21 CKbb CKb VSS VSS g45n1svt m=1 l=45n w=145n
Mmn45 qbint n35 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn40 n35 CKbb mout VSS g45n1svt m=1 l=45n w=145n
Mmp26 n20 CKbb n22 VDD g45p1svt m=1 l=45n w=215n
Mmp25 n22 D VDD VDD g45p1svt m=1 l=45n w=215n
Mmp57 QN net331 VDD VDD g45p1svt m=1 l=45n w=390n
Mmp55 Q qbint VDD VDD g45p1svt m=1 l=45n w=390n
Mmp36 n20 CKb n31 VDD g45p1svt m=1 l=45n w=215n
Mmp35 n31 mout VDD VDD g45p1svt m=1 l=45n w=215n
Mmp20 CKb CK VDD VDD g45p1svt m=1 l=45n w=215n
Mmp31 mout n20 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp40 n35 CKb mout VDD g45p1svt m=1 l=45n w=215n
Mmp56 net331 qbint VDD VDD g45p1svt m=1 l=45n w=215n
Mmp45 qbint n35 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp52 n35 CKbb n41 VDD g45p1svt m=1 l=45n w=215n
Mmp21 CKbb CKb VDD VDD g45p1svt m=1 l=45n w=215n
Mmp30 mout SN VDD VDD g45p1svt m=1 l=45n w=215n
Mmp51 n41 qbint VDD VDD g45p1svt m=1 l=45n w=215n
Mmp50 n41 SN VDD VDD g45p1svt m=1 l=45n w=215n
.ENDS

